US07087579B2
To a solution of 4-bromobenzyl alcohol (2.8 g) and diisopropylethylamine (2.5 g) in dichloromethane (30 mL) was added chloromethyl methyl ether (1.3 g) at 0° C., and the mixture was stirred at room temperature for 14 hours. To the reaction mixture was water, and the mixture was extracted diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give 1-bromo-4-[(methoxymethyloxy)methyl]benzene (3.0 g).

reactant | 4-bromobenzyl alcohol | 2.8 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | diisopropylethylamine | 2.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 1.3 g | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-bromo-4-[(methoxymethyloxy)methyl]benzene | 3.0 g | BrC1=CC=C(C=C1)COCOC | C9H11BrO2
